US04031221
A mixture of 8.1 g of 4-(p-bromophenoxy)piperidine hydrochloride, 12.6 g of potassium carbonate and 60 ml. of isopropanol is stirred and refluxed for one hour. A solution of 6.5 g of 3-(2-bromoethyl)indole in 15 ml. of isopropanol is then added. Stirring and refluxing is continued for 22 hours, and the reaction mixture is filtered hot. A yellow oil separates in the cooled filtrate and the supernatant isopropanol is decanted from the oil. The isopropanol is diluted with ether, causing the unreacted 4-(p-bromophenoxy)piperidine to separate. After filtration, the isopropanol is removed under reduced pressure to give a yellow oil. The oil is permitted to stand for 3 weeks during which time it solidifies to a soft brown solid. Trituration of the solid with benzene affords yellow crystals, which are recrystallized from acetonitrite to give slightly yellow cubes of 3-{2-[4-(p-bromophenoxy)piperidyl]ethyl]-indole, m.p. 132°-134° C.

reactant | 4-(p-bromophenoxy)piperidine hydrochloride | 8.1 g | Cl.BrC1=CC=C(OC2CCNCC2)C=C1
reactant | potassium carbonate | 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | 3-(2-bromoethyl)indole | 6.5 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-{2-[4-(p-bromophenoxy)piperidyl]ethyl]-indole | BrC1=CC=C(OC2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=C1 | C21H23BrN2O
